US07407961B2
3-Amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylic acid (283 mg) was dissolved in DMF (10 ml). To the solution were added i-PrI (172 mg) and t-BuOK (114 mg). The mixture was stirred at 20-30° C. for 2 hours. The reaction mixture was portioned EtOAc and water. The organic layer was separated. The aqueous layer was extracted with EtOAc. The combined organic solution was washed with brine and dried over MgSO4. Evaporation of solvent gave oily residue. The above residue was purified by chromatography on silica gel (EtOAc only-EtOAc:MeOH=96:4, v/v) to give isopropyl 3-amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylate as yellow crystal (64 mg).

reactant | 3-Amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylic acid | 283 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CNC(C=C1)=O)C(=O)O | C16H12N4O3
reactant | i-PrI | 172 mg | C(C)(C)I | C3H7I
reactant | t-BuOK | 114 mg | CC(C)(C)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | isopropyl 3-amino-6-(6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinecarboxylate | 64 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CNC(C=C1)=O)C(=O)OC(C)C | C19H18N4O3
